US04104472
4-Methoxymethyl-5-methylimidazole as the hydrochloride (4.5 g, 0.03 mole) and 3.4 g (0.03 mole) of cysteamine hydrochloride were dissolved in a minimum amount of acetic acid and the mixture was refluxed for 18 hours. After cooling in an ice bath, the mixture was filtered to give 5.8 g (80%) of 4-(2-aminoethyl)thiomethyl-5-methylimidazole dihydrochloride salt (thioamine salt).

reactant | 4-Methoxymethyl-5-methylimidazole | COCC=1N=CNC1C | C6H10N2O
reactant | hydrochloride | 0.03 mole, 4.5 g | Cl | ClH
reactant | cysteamine hydrochloride | 0.03 mole, 3.4 g | Cl.NCCS
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(2-aminoethyl)thiomethyl-5-methylimidazole dihydrochloride salt | 5.8 g, 80% | Cl.Cl.NCCSCC=1N=CNC1C | InChI=1S/C7H13N3S.2ClH/c1-6-7(10-5-9-6)4-11-3-2-8;;/h5H,2-4,8H2,1H3,(H,9,10);2*1H
